US04803209
N,N'-Di(2-hydroxy-5-chlorobenzylidene)-4,5-dichloro-1,2-diaminobenzene
A slurry of 177.0 g (1.0 mole) of 4,5-dichloro-o-phenylenediamine in 750 ml. ethanol was added to a warm near solution of 313.1 g (2.0 mole) of 5-chlorosalicylaldehyde in 2250 ml. of ethanol with mechanical stirring in a 5000 ml, 3-neck flask. A brown solution formed, and a light brown solid began to precipitate after 10-15 minutes. Stirring at room temperature was continued for six days. Thin-layer chromatography indicated that the reaction was substantially complete at the end of six days.

reactant | 4,5-dichloro-o-phenylenediamine | 1.0 mole, 177.0 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 5-chlorosalicylaldehyde | 2.0 mole, 313.1 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-Di(2-hydroxy-5-chlorobenzylidene)-4,5-dichloro-1,2-diaminobenzene | OC1=C(C=NC2=C(C=C(C(=C2)Cl)Cl)N=CC2=C(C=CC(=C2)Cl)O)C=C(C=C1)Cl | C20H12Cl4N2O2
